US05998417
Decanoic acid 2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-oxo-2,3-dihydro-1H-isoindol-1-yl ester
To a solution of 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl-2,3-dihydro-3-hydroxy-1H-isoindol-1-one Et3N (1.2 ml, 8.8 mmol) followed by decanoyl chloride at 0° C. under nitrogen. After stirring for 1 h in the cooling bath, the solvent was removed using a stream of nitrogen. The remaining residue was diluted with EtOAc and the precipitated triethylamine hydrochloride was filtered off. The filtrate was concentrated and the remaining oil was flushed through alumina with ether to give 1.6 g (83% of the desired product as a yellow oil.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl-2,3-dihydro-3-hydroxy-1H-isoindol-1-one Et3N | 8.8 mmol, 1.2 ml | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2O)=O)C=C1.CCN(CC)CC
reactant | decanoyl chloride | C(CCCCCCCCC)(=O)Cl | C10H19ClO
product | Decanoic acid 2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-oxo-2,3-dihydro-1H-isoindol-1-yl ester | 83% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2=O)OC(CCCCCCCCC)=O)C=C1 | C32H40FN3O4
